US05559111
c) 4-Bromo-2-(2-methoxymethoxy-ethyl)-anisole
1.48 g of N-ethyl-diisopropylamine and 0.49 g of chlorodimethyl ether are added at room temperature to a solution of 948 mg of 4-bromo-2-(2-hydroxyethyl)-anisole in 30 ml of dichloromethane. The reaction mixture is stirred for 200 minutes at room temperature, and then 1 ml of water and 1 ml of 25% ammonium hydroxide solution are added thereto. The two-phase mixture is stirred vigorously for a further 15 minutes and then the organic phase is separated off, dried over sodium sulfate and concentrated by evaporation. Purification of the residue by means of FC (hexane/dichloromethane=1:1) yields the title compound: Rf (dichloromethane)=0.5; HPLC Rt =17.33 minutes.

reactant | N-ethyl-diisopropylamine | 1.48 g | C(C)N(C(C)C)C(C)C | C8H19N
reactant | chlorodimethyl ether | 0.49 g | COCCl | C2H5ClO
reactant | 4-bromo-2-(2-hydroxyethyl)-anisole | 948 mg | BrC1=CC(=C(C=C1)OC)CCO | C9H11BrO2
reactant | ammonium hydroxide | 1 ml | [OH-].[NH4+]
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | water | 1 ml | O | H2O
product | 4-Bromo-2-(2-methoxymethoxy-ethyl)-anisole | BrC1=CC(=C(C=C1)OC)CCOCOC | C11H15BrO3
